US07423050B2
22. 2,4,6-Trifluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt
Dissolve 2,4,6-trifluoro-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide—free base (5 g, 23.26 mmol) in isopropanol (50 mL) at room temperature and add a solution of 3.3 M diethylether/HCl (8 mL). Heat the reaction mixture under reflux for 30 minutes. Cool the reaction mixture to room temperature and agitate for 2 hrs. Filter the resulting white precipitate and rinse with isopropanol (5 mL). Dry the residual solid under reduce pressure at 40° C. overnight to obtain the title compound (5.12 g, 93% yield). M.p. 223-224° C. (sublimation); 1H NMR (400 MHz, d6-DMSO) d ppm 1.94 (m, 2 H) 2.14 (m, J=11.15 Hz, 2 H) 2.74 (s, 3 H) 2.99 (m, J=9.19 Hz, 2 H) 3.49 (m, J=11.15 Hz, 2 H) 3.77 (m, 1 H) 7.41 (t, J=8.71 Hz, 2 H) 7.78(d, J=7.43 Hz, 1 H) 8.10 (t, J=7.92 Hz, 1 H) 8.37 (d, J=6.85 Hz, 1 H) 10.50 (s, 1 H) 11.51 (s, 1 H); 13C-NMR: (100.61 MHz, Chloroform-D) ppm 200.7; 130.6-158.0 (m, C-F-couplings); 150.4; 150.1; 140.2; 118.5; 118.2; 111.9; 101.3 (t, C-F couplings); 52.8; 42.6; 25.2

reactant | 2,4,6-trifluoro-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 23.26 mmol, 5 g | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C(=CC(=C1)F)F | C19H18F3N3O2
reactant | diethylether HCl | 3.3 M, 8 mL | C(C)OCC.Cl
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 2,4,6-Trifluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide mono-hydrochloride salt | 5.12 g, 93% yield | Cl.FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C(=CC(=C1)F)F | InChI=1S/C19H18F3N3O2.ClH/c1-25-7-5-11(6-8-25)18(26)15-3-2-4-16(23-15)24-19(27)17-13(21)9-12(20)10-14(17)22;/h2-4,9-11H,5-8H2,1H3,(H,23,24,27);1H
